Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
The toughest thing for me has been the stress of school." 
 
Major Surgical or Invasive Procedure:
None 

 
History of Present Illness:
For further details of the history and presentation, please see 
OMR, including initial consultation
note by Drs. ___ and ___, staff note by 
Dr. ___ dated ___, admission note by Dr. 
___ dated ___.
. 
Briefly, this is a ___ year old single ___ man, currently an 
___ student studying ___ at ___ 
___, no formal psychiatric history or medical history, 
reported history of depression, anxiety, no prior suicide 
attempts or SIB, who presented to ___ ED with his friends due 
to concerns of worsening depression, anxiety, concern for SI in 
the setting of numerous psychosocial stressors. 
. 
ED Course: ___ was in good behavioral control and did not 
require physical or chemical restraints. 
. 
___ seen with ___, ___. Upon interview with 
Mr. ___, who was a reliable historian, he confirmed the 
history initially presented in the ED. Reported a history of 
depression, stating that during adolescence he would experience 
feeling lonely despite being popular. Reported he was in a long 
term relationship for ___ years and felt better when dating his 
now ex-girlfriend. However noted he started really struggling 
with depression approximately a year ago. Noted that he "used to 
do fine in school" until a year ago when he started feeling 
"depressed, hopeless, which started affecting my motivation and 
grades." Also noted that in ___, his relationship
with his girlfriend of ___ years "ended badly," which was a 
significant stressors. Reported that his grades dropped to the 
point where he had to take of 2 semesters last year and was 
apparently dismissed from school. ___ stated he appealed his 
dismissal successfully over the summer and was allowed to return 
this ___ with the stipulation that he maintain a certain GPA. 
.  
In addition to the above stressors, ___ reported he injured 
himself while playing squash, which was a mechanism for coping-- 
stated the injury happened in ___ and in early ___ he
learned he had been "kicked off" the squash team, which was 
quite difficult for him. Mr. ___ reported that in addition 
to low mood he has been experiencing erratic sleep, some days 
sleeping
___ hours, other nights ___ with intermittent difficulties 
falling asleep for unclear reasons. Reported appetite has been 
erratic, noting his dietary choices have been poor; he states he 
will binge eat at times but on other days he will only eat one 
meal. States he believes he has gained some weight, unclear how 
much. Also reported erratic concentration, stating "some days 
are
okay, others not so much." Also reported erratic energy, stating 
"some days are fine, others not so good." In terms of SI, 
adamantly denied SI or thoughts of wanting to harm himself. 
.
On day of presentation, ___ stated he was at lunch at school 
when he received the email that he was going to be dismissed 
from school. Stated that at that time, he was quite surprised 
and overwhelmed, "and my friends ___ know about my 
depression-- I was upset and started crying, which freaked them 
out." He stated he then told his friends about his history of 
depression, "and
they freaked out and brought me here for help." Although he is 
willing to get help, he did think that being here was "an 
overreaction." 
. 
On psychiatric review of systems, ___ denied history of 
mania including decreased need for sleep, excessive amounts of 
energy, increased impulsivity, hypersexuality. Denied history of
psychotic symptoms including AVH, paranoia, TIB. Reported 
anxiety symptoms, particularly before he goes to bed. Noted 
during these times he will have heavy breathing, periods of 
diaphoresis, "I'll overthink things." Reported intermittent 
alcohol use on the weekends, but denied abuse. Denied illicit 
drug use. 

 
Past Medical History:
Past Psychiatric History: 
- Diagnoses: no formal diagnoses, history of depression and
anxiety 
- SA/SIB: denies/denies  
- Hospitalizations: none 
- Psychiatrist: none 
- Therapist: none 
- Medication Trials: none 
. 
Past Medical History: 
s/p right latissimus tear as noted above 

 
Social History:
Substance History:  
- Alcohol: denies abuse, history of use on weekends with 
occasional blackouts
- Illicits: denies, has experimented with cannabis in the past
- Tobacco: denies, reports he has smoked cigarettes in the past 
.
Social History: ___ born and raised in ___ to an 
intact family as the youngest of 2. Has a sister, age ___, with 
whom he is close and is currently pursuing ___ PhD at ___. 
Reported his father works as a ___, describing 
him as "very fun, cool, collected." Reported mother was "more 
the
parent," noting she used to work as a ___ but then 
stepped down when the family moved for her father's career. 
Mother currently works for the family start up in ___ 
___. ___ lived in ___ until ___ when they moved 
to ___ and then ___ in ___ for his father's work.
Described a good childhood, but noted "we didn't have a lot 
growing up, we lived in a semi-joint family house with extended 
family," and described it as a "busy, loving house." Graduated 
high school, currently is in his final year at ___ studying 
___, ___. Stated the program is 
"okay,"and notes that he wants to go into ___ or 
___. Denies history of sexual or physical abuse and 
denied access to weapons. Of note, unclear what his visa status 
at the school is at this time, but states he would like to 
return to school next semester. 
 
Family History:
- Diagnoses: denies
- Suicides: denies
- Addictions: denies 

 
Physical Exam:
VITAL SIGNS:
___ Temp: 97.7 PO BP: 122/83 HR: 86 RR: 16 O2 sat: 98% 


EXAM:

General:
-HEENT: Normocephalic, atraumatic.  Moist mucous membranes,
oropharynx clear, supple neck.  No scleral icterus.
-Cardiovascular: Regular rate and rhythm, S1/S2 heard, no
murmurs/rubs/gallops. 
-Pulmonary: No increased work of breathing.  Lungs clear to
auscultation bilaterally.  No wheezes/rhonchi/rales.
-Abdominal: Non-distended, bowel sounds normoactive.  No
tenderness to palpation in all quadrants.  No guarding, no
rebound tenderness.
-Extremities: Warm and well-perfused.  No edema of the limbs.
Raising right arm causes pain ___ to latissmus muscle tear. 
-Skin: No rashes or lesions noted.

Neurological:
-Cranial Nerves:
---I: Olfaction not tested.
---II: PERRL 3 to 2mm, both directly and consentually; brisk
bilaterally.  VFF to confrontation.
---III, IV, VI: EOMI without nystagmus
---V: Facial sensation intact to light touch in all 
distributions
---VII: No facial droop, facial musculature symmetric and ___
strength in upper and lower distributions, bilaterally
---VIII: Hearing intact to finger rub bilaterally
---IX, X: Palate elevates symmetrically
---XI: ___ strength in trapezii and SCM bilaterally
---XII: Tongue protrudes in midline
-Motor: Normal bulk and tone bilaterally. No abnormal movements,
no tremor. Strength ___ throughout.
-Sensory: No deficits to fine touch throughout
Coordination: Normal on finger to nose test, no intention tremor
noted
-Gait: Good initiation.  Narrow-based, normal stride and arm
swing. 

Cognition: 
-Wakefulness/alertness: Awake and alert
-Attention: MOYb with 0 errors
-Orientation: Oriented to person, time, place, situation
-Executive function (go-no go, Luria, trails, FAS): Not tested
-Memory: ___ registration, ___ recall after 5 ___
grossly intact
-Fund of knowledge: Consistent with education; intact to last 3
presidents
-Calculations: 7 quarters = "$1.75"
-Visuospatial: Not assessed
-Language: Accented, fluent ___ speaker, no paraphasic
errors, appropriate to conversation

Mental Status:
 -Appearance: ___ male appearing stated age, well groomed,
wearing hospital gown, in no apparent distress
 -Behavior: Sitting up in bed, appropriate eye contact, no
psychomotor agitation or retardation
 -Attitude: Cooperative, engaged, friendly
 -Mood: "bummed"
 -Affect: mood congruent, anxious, restricted range of affect,
appropriate to
situation
 -Speech: Normal rate, volume, and tone
 -Thought process: Linear, coherent, goal-oriented, no loose
associations
 -Thought Content:
 ---Safety: Denies SI/HI
 ---Delusions: No evidence of paranoia, etc. 
 ---Obsessions/Compulsions: No evidence based on current
encounter
 ---Hallucinations: Denies AVH, not appearing to be attending to
internal stimuli
 -Insight: Poor
 -Judgment: Fair
 
Pertinent Results:
___ 03:08AM URINE  HOURS-RANDOM
___ 03:08AM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 03:08AM URINE  COLOR-Yellow APPEAR-Hazy* SP ___
___ 03:08AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR* 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-NEG
___ 03:08AM URINE  MUCOUS-RARE*
___ 09:41PM   GLUCOSE-91 UREA N-11 CREAT-1.0 SODIUM-141 
POTASSIUM-4.5 CHLORIDE-103 TOTAL CO2-26 ANION GAP-12
___ 09:41PM   estGFR-Using this
___ 09:41PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
tricyclic-NEG
___ 09:41PM   WBC-7.5 RBC-5.21 HGB-14.8 HCT-43.6 MCV-84 
MCH-28.4 MCHC-33.9 RDW-13.0 RDWSD-39.2
___ 09:41PM   NEUTS-56.8 ___ MONOS-7.2 EOS-3.3 
BASOS-0.3 IM ___ AbsNeut-4.26 AbsLymp-2.41 AbsMono-0.54 
AbsEos-0.25 AbsBaso-0.02
___ 09:41PM   PLT COUNT-210
 
Brief Hospital Course:
This is a ___ year old single ___ man, currently an 
___ student studying business at ___ 
___, no formal psychiatric history or medical
history, reported history of depression, anxiety, no prior 
suicide attempts or SIB, who presented to ___ ED with his 
friends due to concerns of worsening depression, anxiety, 
concern for SI in the setting of numerous psychosocial 
stressors. 
.
History and presentation notable for onset of significant 
depressive symptoms beginning approximately a year ago, possibly 
in the setting of break up with his long term girlfriend, with 
poor motivation, difficulty functioning at school with resultant 
decline in grades. Most recently, ___ reporting at least 
several months of worsening mood, disruptions in sleep, 
appetite, energy and concentration in the setting of ongoing 
academic stressors. However, ___ adamantly denies suicidal 
ideation or thoughts of self harm. Mental status examination 
reassuring with ___ appearing calm, cooperative with 
slightly anxious affect but with denial of SI and thought 
process that was notably linear, logical, goal and future 
oriented. 
. 
Diagnostically, ___ likely does meet criteria for MDD, 
moderate, without psychotic features and GAD +/- panic disorder. 
Of note, no history of mania that would be concerning for BPAD, 
although given his young age, this does remain on the 
differential. No evidence of a primary psychotic disorder. No 
history of significant drug or alcohol abuse and given his young 
age and good health, an underlying medical condition is unlikely 
to be contributing to his current presentation. 
. 
#. Legal/Safety: ___ admitted to ___ on a ___, upon admission, he signed a CV and 3 day notice dated ___. 
Of note, ___ maintained his safety throughout his 
hospitalization on 15 minute checks and did not require physical 
or chemical restraints. 
. 
#. Depression/Anxiety: as noted above
- ___ was compliant in attending groups and meeting with his 
treatment team, participating actively and appropriately in his 
care
- After discussion of the risks and benefits, we initiated 
Lexapro 5 mg po daily, which he tolerated well without 
complaints of side effects. Recommend titrating this medication 
up as tolerated and as clinically indicated as an outpatient 
- For periods of insomnia, we offered Ramelteon 8 mg po qhs prn 
insomnia, which was discontinued at time of discharge with 
recommendation to utilize melatonin 3 mg po qhs prn insomnia
- For periods of anxiety, ___ was offered Vistaril 25 mg po 
bid prn anxiety, although he did not require doses. 
- Of note, ___ consistently denied SI or thoughts of self 
harm during this hospitalization and was amenable to treatment. 
Collateral was obtained from his parents, who had no safety 
concerns and felt comfortable with discharge. Social work worked 
closely with the ___ and the school, with tentative plan to 
return back to school in the ___. Given his 
definitive plan to return to ___ in ___, a referral to 
outpatient providers was made. 
. 
#. Medical: no acute medical issues during this hospitalization 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This ___ is not taking any preadmission medications

 
Discharge Medications:
1.  Escitalopram Oxalate 5 mg PO DAILY 
RX *escitalopram oxalate 5 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0 
2.  HydrOXYzine 25 mg PO BID PRN anxiety, insomnia  
RX *hydroxyzine HCl 25 mg 1 tab by mouth twice a day Disp #*60 
Tablet Refills:*0 
3.  Melatin (melatonin) 3 mg oral qhs prn insomnia   

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
MDD, moderate, without psychotic features 
GAD 

 
Discharge Condition:
98.0 102 / ___
A/B: Appears stated age, dressed casually with good hygiene and 
grooming, calm, cooperative with interviewer, good eye contact, 
no psychomotor agitation or retardation noted
S: normal rate, volume, prosody, goal directed
M: 'better' 
A: euthymic, mood congruent, appropriate
TC: denies SI/HI, AVH
TP: linear, logical, goal and future oriented 
C: awake, alert and oriented x3 
I/J: fair/fair 

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___